US04182881
A. 4-Cyano-N-[dichlorophosphinyl]benzamide
A suspension of 18.1 g (0.12 mole) of 4-cyanobenzamide, 25.8 g (0.12 mole) of phosphorus pentachloride and 250 ml of AR carbon tetrachloride was stirred and heated at 70° until the HCl gas evolution had subsided; ca. 25 min. The solution was cooled to 30° and 5.9 g (0.12 mole) of 97% formic acid was added while maintaining a temperature of 30°. After stirring for 30 min., the product was collected, washed with AR carbon tetrachloride and dried to give 52 g, m.p. shrinks 162°-165°, darkens 218°, decomposes >300°.

reactant | 4-cyanobenzamide | 0.12 mole, 18.1 g | C(#N)C1=CC=C(C(=O)N)C=C1 | C8H6N2O
reactant | phosphorus pentachloride | 0.12 mole, 25.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.12 mole, 5.9 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Cyano-N-[dichlorophosphinyl]benzamide | C(#N)C1=CC=C(C(=O)NP(=O)(Cl)Cl)C=C1 | C8H5Cl2N2O2P
